US07897631B2
4-Pent-4-ynyl-1H-imidazol-2-ylamine hydrochloride (0.090 g, 0.485 mmol) was reacted with 3-(2-Azido-ethyl)-thiophene (0.089 g, 0.581 mmol) following the general procedure for click reactions outlined above to produce 4-{3-[1-(2-Thiophen-3-yl-ethyl)-1H-[1,2,3]triazol-4-yl]-propyl}-1H-imidazol-2-ylamine hydrochloride (0.067 g, 41%) as a pale yellow solid. 1H NMR (300 MHz, CD3OD) δ 7.42 (s, 1H), δ 7.12 (d, 1H), δ 6.83 (s, 1H), δ 6.70 (d, 1H), δ 6.29 (s, 1H), δ 4.41 (t, 2H), δ 3.04 (t, 2H), δ 2.50 (t, 2H), δ 2.29 (t, 2H), δ 1.72 (m, 2H) ppm; 13C NMR (75 MHz, CD3OD) δ 146.8, 146.8, 137.7, 127.8, 127.6, 125.7, 122.6, 121.9, 109.0, 50.7, 30.7, 27.9, 23.7 ppm; HRMS (ESI) calcd for C14H18N6S (M+) 302.1313. found 302.1317.

reactant | 4-Pent-4-ynyl-1H-imidazol-2-ylamine hydrochloride | 0.485 mmol, 0.090 g | Cl.C(CCC#C)C=1N=C(NC1)N
reactant | 3-(2-Azido-ethyl)-thiophene | 0.581 mmol, 0.089 g | N(=[N+]=[N-])CCC1=CSC=C1 | C6H7N3S
product | 4-{3-[1-(2-Thiophen-3-yl-ethyl)-1H-[1,2,3]triazol-4-yl]-propyl}-1H-imidazol-2-ylamine hydrochloride | 0.067 g, 41% | Cl.S1C=C(C=C1)CCN1N=NC(=C1)CCCC=1N=C(NC1)N | InChI=1S/C14H18N6S.ClH/c15-14-16-8-12(17-14)2-1-3-13-9-20(19-18-13)6-4-11-5-7-21-10-11;/h5,7-10H,1-4,6H2,(H3,15,16,17);1H
